US08242104B2
Following the procedure of Example 426, 2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ol, 2-hydroxy-3-methyl-butyric acid methyl ester and (S)-2-hydroxy-butyric acid tert-butyl ester were reacted and the crude product was subjected to flash chromatography (SiO2, gradient 0-10% methanol in ethyl acetate) to give (S)-2-{2-[2-(2,2,2-Trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yloxy}-butyric acid tert-butyl ester as a yellow oil contaminated with triphenylphosphine oxide, no further purification was undertaken. LCMS: RT=4.05 min, [M+H]+=494

reactant | 2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ol | FC(CN1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)O)(F)F | C15H12F3N5O2
reactant | 2-hydroxy-3-methyl-butyric acid methyl ester | COC(C(C(C)C)O)=O | C6H12O3
reactant | (S)-2-hydroxy-butyric acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC)O)=O | C8H16O3
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-{2-[2-(2,2,2-Trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yloxy}-butyric acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC)OC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)CC(F)(F)F)C=C1)=O | C23H26F3N5O4
